US03968142
A mixture of 15 g of para-cyclohexyl-phenylacetic acid ethyl ester and 6.7 g of acrylic acid ethyl ester is added dropwise to a solution of 1.5 g of sodium in 25 ml of ethanol. The solution is boiled overnight and then poured into a mixture of 5 ml of glacial acetic acid and 75 ml of water. The alcohol is distilled off and the batch extracted with ethyl acetate. The residue remaining on evaporation of the ethyl acetate is distilled in a high vacuum. There is obtained 2-(para-cyclohexylphenyl)-glutaric acid diethyl ester boiling at 184°-186°C under a pressure of 0.4 mm of Hg.

reactant | para-cyclohexyl-phenylacetic acid ethyl ester | 15 g | C(C)OC(CC1=CC=C(C=C1)C1CCCCC1)=O | C16H22O2
reactant | acrylic acid ethyl ester | 6.7 g | C(C)OC(C=C)=O | C5H8O2
reactant | sodium | 1.5 g | [Na] | Na
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
product | 2-(para-cyclohexylphenyl)-glutaric acid diethyl ester | C(C)OC(C(CCC(=O)OCC)C1=CC=C(C=C1)C1CCCCC1)=O | C21H30O4
